US04016274
A solution (447 cc.) of sodium ethoxide in ethanol of concentration 1.34 moles per liter, followed by a solution (1,305 cc.) of ammonia in ethanol of concentration 4.6 moles per liter, are added to a suspension of N,N-bis(2-chloroethyl)-t-butylamine hydrochloride (140.7 g.) in ethanol (750 cc.). The reaction mixture is then heated at a temperature of about 60° C. for 1 hour, whilst keeping the ammonia refluxing by means of a condenser containing solid carbon dioxide. The ammonia is then allowed to dissipate, and the reaction mixture is cooled to a temperature of about 20° C. under a stream of nitrogen. A solution (894 cc.) of sodium ethoxide in ethanol of concentration 1.34 moles per liter is then added. The sodium chloride which precipitates is filtered off and then washed with ethanol (150 cc.). The filtrate is concentrated to dryness under reduced pressure and the residue obtained is taken up in diethyl ether (300 cc.). The insoluble product is filtered off and washed with diethyl ether (60 cc.). The filtrate is concentrated to dryness and then distilled under reduced pressure. 1-t.-butylpiperazine (8.8 g.), which boils at 85°-86° C. under a pressure of 28 mm.Hg, is thus obtained.

reactant | sodium ethoxide | 447 cc | [O-]CC.[Na+]
reactant | ammonia | 1,305 cc | N | H3N
reactant | N,N-bis(2-chloroethyl)-t-butylamine hydrochloride | 140.7 g | Cl.ClCCN(CCCl)C(C)(C)C
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium ethoxide | 894 cc | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 750 cc | C(C)O | C2H6O
solvent | diethyl ether | 300 cc | C(C)OCC | C4H10O
product | butylpiperazine | 8.8 g | C(CCC)N1CCNCC1 | C8H18N2
